US08470820B2
Step 1: (Z)-4-Hydroxy-2-oxo-4-pyridin-2-yl-but-3-enoic acid ethyl ester
A solution of 2-acetylpyridine (5.0 g, 40 mmol) and diethyl oxalate (5.9 g, 40 mmol) in diethylether (75 ml) was cooled to 0° C. and treated with sodium ethylate (16.6 ml, 21% solution in ethanol). While stirring overnight, the reaction mixture was allowed to warm-up slowly to ambient temperature. The reaction mixture was acidified with acetic acid, diluted with water and extracted with diethylether. The combined organic phases were washed with water and brine, dried and evaporated. The isolated residue was triturated with heptane (30 ml) and diethylether (5 ml) for 2 h and the resulting suspension was filtrated to collect the product. This process was repeated to obtain the product as light brown solid (3.96 g, 44%). MS: M=220.1 (M−H)−

reactant | 2-acetylpyridine | 40 mmol, 5.0 g | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | diethyl oxalate | 40 mmol, 5.9 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethylate | 16.6 ml | CC[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethylether | 75 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | (Z)-4-Hydroxy-2-oxo-4-pyridin-2-yl-but-3-enoic acid ethyl ester | 3.96 g, 44% | C(C)OC(C(\C=C(\C1=NC=CC=C1)/O)=O)=O | C11H11NO4
